US04650613
In a three neck round bottom flask equipped with an addition funnel, a reflux condenser, and a stir bar was added 50 mL of water, 50 mL of concentrated hydrochloric acid, and 10.7 g (0.13 mol) of phosphorous acid. The solution was stirred and heated at reflux and then treated with 18.3 g (0.10 mol) of N-(2-carboxyethyl)glycine. Then 9.8 mL of a 40% (w/v) formaldehyde solution was added dropwise over 30 minutes. Heating was continued an additional 60 minutes. The solvent was then removed under reduced pressure until only a few mL remained. This was allowed to sit at 5° C. during which time a precipitate formed. This solid was filtered, washed with ethanol, and dried. The solvent was removed from the filtrate under reduced pressure. The residue was chromatographed on Dowex 50X8-400 ion exchange resin using water as the eluent. Combined with the initial precipitate, the ma3or fraction gave a total of 12.7 g (52%) of N-(2-carboxyethyl)-N-phosphonomethylglycine.

reactant | hydrochloric acid | 50 mL | Cl | ClH
reactant | phosphorous acid | 0.13 mol, 10.7 g | P(O)(O)O | H3O3P
reactant | N-(2-carboxyethyl)glycine | 0.10 mol, 18.3 g | C(=O)(O)CCNCC(=O)O | C5H9NO4
reactant | formaldehyde | C=O | CH2O
solvent | water | 50 mL | O | H2O
product | N-(2-carboxyethyl)-N-phosphonomethylglycine | 12.7 g, 52% | C(=O)(O)CCN(CC(=O)O)CP(=O)(O)O | C6H12NO7P
